US04409214
A mixture of benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-triphenylphosphoranylidenemethyl-3-cephem-4-carboxylate (syn isomer) (2.2 g), 36% aqueous formaldehyde (20 ml) and tetrahydrofuran (60 ml) were stirred at ambient temperature for 12.5 hours. After addition of ethyl acetate (100 ml) to the reaction mixture, the organic layer was separated out, washed with 10% hydrochloric acid and an aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was pulverized with diethyl ether, and chromatographed on silica gel using chloroform and then a mixture of chloroform and acetone (19:1 and 9:1 by volume) as an eluent. The fractions containing the desired compound were collected and evaporated to give benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (0.25 g).

reactant | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-triphenylphosphoranylidenemethyl-3-cephem-4-carboxylate | 2.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C46H38N5O6PS2
reactant | formaldehyde | 20 ml | C=O | CH2O
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 0.25 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C29H25N5O6S2
